US08314087B2
5-(3-Fluorophenyl)-1-(2-hydroxyethyl)pyridin-2(1H)-one.
5-Bromo-1-(2-hydroxyethyl)pyridin-2(1H)-one (100.7 mg, 462 μmol), 3-fluorophenylboronic acid (121.5 mg, 868 μmol), palladium fibercat catalyst (4.11%, 14.1 mg), and sodium carbonate (0.48 ml, 2.0 M in water, 960 μmol) were put in a microwave vial, and then 1,4-dioxane (0.69 ml) was added. The microwave vial was sealed and heated in the CEM microwave at 120° C. and 50 Watts for a 5 minute ramp time and then a 20-minute run time. The reaction was then cooled to room temperature, diluted with water, and extracted with 3:1 CH2Cl2/MeOH. The organic phases were combined, dried over sodium sulfate, filtered, concentrated, and dried under vacuum. The material was used for the next step. MS (ESI pos. ion) m/z (MH+): 234. Calc'd exact mass for C13H12FNO2: 233.

reactant | 5-Bromo-1-(2-hydroxyethyl)pyridin-2(1H)-one | 462 μmol, 100.7 mg | BrC=1C=CC(N(C1)CCO)=O | C7H8BrNO2
reactant | 3-fluorophenylboronic acid | 868 μmol, 121.5 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 960 μmol, 2.0 M, 0.48 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 0.69 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | palladium | 14.1 mg | [Pd] | Pd
product | 5-(3-Fluorophenyl)-1-(2-hydroxyethyl)pyridin-2(1H)-one | FC=1C=C(C=CC1)C=1C=CC(N(C1)CCO)=O | C13H12FNO2
